US05958944
Sodium nitrite (440 mg) was added to a mixture of methyl (R)-3-amino-4-(1-acetylaminoethyl)benzoate (1.38 g), conc. hydrochloric acid (3 ml) and water (9 ml) under ice-cooling, and the mixture was stirred at the same temperature for 30 minutes. A solution of sodium azide (420 mg) in water (5 ml) was added, and the mixture was stirred for 30 minutes. After the reaction, the mixture was extracted with ethyl acetate, and washed with water. The mixture was dried, and the solvent was evaporated to give methyl (R)-4-(1-acetylaminoethyl)-3-azidobenzoate as white crystals.

reactant | Sodium nitrite | 440 mg | N(=O)[O-].[Na+]
reactant | methyl (R)-3-amino-4-(1-acetylaminoethyl)benzoate | 1.38 g | NC=1C=C(C(=O)OC)C=CC1[C@@H](C)NC(C)=O | C12H16N2O3
reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | sodium azide | 420 mg | [N-]=[N+]=[N-].[Na+]
solvent | water | 5 ml | O | H2O
solvent | water | 9 ml | O | H2O
product | methyl (R)-4-(1-acetylaminoethyl)-3-azidobenzoate | C(C)(=O)N[C@H](C)C1=C(C=C(C(=O)OC)C=C1)N=[N+]=[N-] | C12H14N4O3
